Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
allopurinol
 
Attending: ___.
 
Chief Complaint:
left eyelid swelling and pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ y/o woman with a complicated medical history 
of  insulin-dependent DMII (A1c 8.7% on ___, ___, CAD (MIs 
in ___ and ___ DES to RCA), mild to moderate renal 
artery stenosis, peripheral vascular disease, and paroxysmal 
atrial fibrillation on warfarin who presented to PCP office on 
___ with 3 days of swollen and painful left eyelid without 
associated fevers, chills, or visual changes. She was diagnosed 
with ___ edema and prescribed a course of cephalexin, 
though after 2 doses she re-presented to urgent care and was 
referred to the ___ ED due to ongoing pain, concern for 
spread, and low-grade temp to 99.5. She denies any prior similar 
infections, preceding trauma, or bug bites. She continues to 
deny any pain with eye movement, vision changes, double-vision, 
sinus pain, purulent drainage, or any other concerning symptoms.

Of note, she has recently been having worsening upper extremity 
joint pain along with lower extremity edema. This has been 
improving with increased doses of her home torsemide as 
recommended by her PCP. She denies any CP, SOB, orthopnea, PND, 
DOE, cough, abd pain, dysuria, diarrhea, or skin rashes. She 
notes that she has had worsening morning hand/wrist pain and 
stiffness which she attributes to her febuxostat but is 
currently being work-up by her PCP and will be seeing a 
Rheumatologist as well. 

- In the ED, initial VS were 98.3 77 197/59 16 97% 
- Labs notable for ___ with Cr 2.2 (baseline mid-high 1s). No 
leukocytosis, normal lactate.
- Received IV amp-sulbactam x2 starting at 2300 on ___, along 
with sliding scale insulin coverage twice with 18 and 5 units SC 
and then 12 units IV at 5am, along with 500cc NS.
- Given HTN to 170s-200 SBP, also given home carvedilol 25mg, 
torsemide 20mg, and spironolactone 25mg.
- Given lack of improvement overnight in observation, admitted 
for further management.
- Transfer vital signs:  98 80 190/90 18 99% RA 

- On arrival to the floor, VS: 98.8  ___. FSBG 
365 
She had no new complaints outside of the above.

 
Past Medical History:
- HTN, labile
- HLD
- HYPOTHYROIDISM 
- RETINAL ARTERY OCCLUSION - BRANCH 
- MIGRAINE EQUIVALENT 
- CAD/MI (MIs in ___ and ___: This demonstrated a mid 
RCA lesion which was stented with a drug-eluting stent. LAD had 
a proximal 30% stenosis, left circumflex had a ostial 50% 
stenosis. The distal RCA also had a 50% stenosis) 
- CHF (EF 60-65% in ___
- OBESITY,
- insulin-dependent DMII 
- Gout 
- Renal artery stenosis 
- CKDIII
- Anemia
- a-fib on anticoagulation
- Depression 

 
Social History:
___
Family History:
Mother had colon cancer.
 
Physical Exam:
ADMISSION:
VS: 98.8  ___. FSBG 365
General:  well-developed, adult woman sitting comfortably on the 
exam table in NAD. pleasant, appropriate, conversive
HEENT: Significant erythema and swelling of left eyelid without 
evidence of ulceration or any active drainage. extraocular 
muscles are intact and she has no discomfort with eye movement. 
no double vision with eye movement. PERRLA. no chemosis. no 
sinus tenderness. left nasal inferior turbinate with some mild 
erythema and swelling but otherwise clear nasal passages. 
oropharynx with moist mucous membranes, no ulceration or 
exudates, prior dental work. no lymphadenopathy. no auricular 
tenderness nor discharge on manipulation.
Neck: JVP not elevated
CV:  normal rate, regular rhythm, no m/r/g
Lungs: scattered expiratory wheezes present but otherwise no 
crackles or rhonchi
Abdomen:  soft, non-tender, non-distended, NABS
GU: no foley
Ext:  1+ pitting edema bilaterally in ___. otherwise no rashes or 
ulcers
Neuro: fully oriented, conversant, interactive. gait normal. CN 
II-XII are fully intact.

DISCHARGE EXAM: 97.6  159/60  76  18  97%RA
Left eyelid with significantly reduced erythema and swelling. 
Remains without any pain with eye movement, vision changes, 
double vision, or purulence. Exam is otherwise unchanged from 
above.
 
Pertinent Results:
ADMISSION:

___ 09:02PM BLOOD WBC-8.4 RBC-3.58* Hgb-11.2* Hct-34.0* 
MCV-95 MCH-31.4 MCHC-33.1 RDW-13.9 Plt ___
___ 09:02PM BLOOD Neuts-72.8* Lymphs-17.8* Monos-6.7 
Eos-2.4 Baso-0.4
___ 03:20PM BLOOD ___
___ 09:02PM BLOOD Glucose-213* UreaN-72* Creat-2.2* Na-140 
K-4.3 Cl-98 HCO3-28 AnGap-18

DISCHARGE:

___ 06:00AM BLOOD Glucose-344* UreaN-75* Creat-2.0* Na-134 
K-3.9 Cl-96 HCO3-29 AnGap-13
___ 06:00AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.1

INR:

___ 03:20PM BLOOD ___
___ 06:00AM BLOOD ___

___ BLOOD CULTURES negative to date.
 
Brief Hospital Course:
___ y/o woman with a complicated medical history including 
insulin-dependent DMII (A1c 8.7% on ___ admitted for 
___ cellulitis. She remained afebrile and 
hemodynamically stable without systemic signs of sepsis. 

ACTIVE ISSUES:

# ___ cellulitis was evidenced by the 
complete absence of any pain with eye movement, ophthalmoplegia, 
vision changes, purulence, HA, sinonasal or palatal necrosis, so 
she did not need to have CT imaging given the very low 
likelihood of orbital cellulitis. Her cellulitis significantly 
improved with IV vancomycin and amp-sulbactam overnight, and she 
was subsequently discharged on a 7-day course of po Bactrim and 
Augmentin. 

# ___: Her hospital course was also notable for a mild ___ with 
creatinine of about 2 compared to baseline in the mid-high 1s, 
mostly likely pre-renal in etiology. She received some IV fluids 
in the Emergency Department and it remained stable. Outpatient 
lab order was placed to monitor creatinine and potassium while 
on Bactrim, though the Bactrim was appropriately dose-reduced 
for her eGFR.

# HTN: She had hypertensive urgency with SBP up to 209, though 
she remained completely asymptomatic and responded appropriately 
to her home antihypertensive regimen. Her SBP improved to about 
the 150s.
- continue home regimen of carvedilol, irbesartan, 
spironolactone, torsemide. Irbesartan was continued given the 
improvement in her ___ and the degree of her severe HTN

# Hyperglycemia: She also had significant hyperglycemia 
frequently to the 300s. Exacerbation likely due to current 
infection and potentially from recently completed prednisone 
course. Continue her home regimen of lantus 18 units qhs, 
humalog 10 units TID with meals, along with sliding-scale 
humalog for more optimal control while in-house.

CHRONIC ISSUES:

# HLD: Continued ezetimibe.

# Hypothyroidism: Continued levothyroxine.

# CAD/MI hx: Continued home ASA, carvedilol, irbesartan. Not on 
home statin or clopidogrel.

# CHF (EF 60-65% in ___: Continued cardiac meds as above along 
with torsemide and spironolactone.

# Gout: Continued febuxostat. She is being worked-up by her PCP 
and has an upcoming Rheumatology appointment for her morning 
wrist/hand pain.

# CKDIII: Continued home irbesartan given her significant HTN 
and improvement in ___.

# a-fib on anticoagulation: Continued warfarin. Checking 
outpatient INR ___.

# Depression: Continued home bupropion.

# Chronic pain: Continued prn oxycodone.

# Anemia: Continued home ferrous sulfate.

 
TRANSITIONAL ISSUES:
- to complete 7-day course of po Bactrim and Augmentin. Bactrim 
is dose-reduced for her impaired renal function
- ensure resolution of ___ cellulitis with this 
antibiotic course
** She will have BUN, Cr, K, and also INR labs drawn on ___, 
___ and faxed to Dr. ___. Please monitor these labs 
given her CKD and Bactrim regimen. I confirmed with the on-call 
covering NP that these labs will be reviewed ___
- she may require up-titration of both her antihypertensive 
regimen and her insulin regimen given significant HTN and 
hyperglycemia while here, though these may be exacerbated by her 
infection and hospitalization
- f/u INR check for ___, as level may vary with antibiotic use

# CODE: Full code confirmed  
# EMERGENCY CONTACT: ___ (daughter) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
2. Ferrous Sulfate 325 mg PO BID 
3. Torsemide 40 mg PO BID 
4. Ezetimibe 10 mg PO DAILY 
5. Warfarin 5 mg PO DAILY16 
6. Aspirin 81 mg PO DAILY 
7. Febuxostat 40 mg PO DAILY 
8. irbesartan 150 mg oral Daily 
9. Glargine 18 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
10. Carvedilol 25 mg PO BID 
11. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
12. Levothyroxine Sodium 112 mcg PO DAILY 
13. Spironolactone 25 mg PO DAILY 
14. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB or wheezing 
15. BuPROPion (Sustained Release) 150 mg PO BID 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB or wheezing 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Carvedilol 25 mg PO BID 
5. Ezetimibe 10 mg PO DAILY 
6. Febuxostat 40 mg PO DAILY 
7. Ferrous Sulfate 325 mg PO BID 
8. Glargine 18 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
9. irbesartan 150 mg oral Daily 
10. Levothyroxine Sodium 112 mcg PO DAILY 
11. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
12. Spironolactone 25 mg PO DAILY 
13. Torsemide 40 mg PO BID 
14. Warfarin 5 mg PO DAILY16 
15. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
16. Sulfameth/Trimethoprim SS 1 TAB PO BID Duration: 6 Days 
17. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
18. Outpatient Lab Work
Please draw BUN, Creatinine, Potassium, and INR on ___
Diagnosis: CKD 585.9 and atrial fibrillation ___
Fax results to: Dr. ___ M., fax # ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Left periorbital cellulitis

Secondary Diagnosis:
Hypertensive urgency
Hyperglycemia
mild ___ on CKD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your hospitalization. 
You were admitted on ___ due to swelling of your left eyelid. 
You were diagnosed with a skin infection called periorbital 
cellulitis (also called preseptal cellulitis), which means the 
skin of your eyelid has an infection, but it does not involve 
the sensitive structures around the eye.

Your infection has significantly improved, and you are now able 
to be discharged home on a course of oral antibiotics.

You also had very high blood pressure and blood sugars while in 
the hospital, though they stabilized with your home medications. 
Please be sure to follow-up with your PCP ___ 
further management of these issues.

You antibiotic prescriptions were sent to the 24-hour ___ below:

___
Store ___

Please be sure to also have your labs drawn tomorrow ___, 
___ at a local lab to be faxed to Dr. ___, and 
make sure to call your ___ so they review 
your INR check as well.

Enjoy the holidays!
 
Followup Instructions:
___